US07238724B2
(2S,5R)-1-{N-((1R,2R,4S)-bicyclo(2.2.1)hept-2-yl)glycyl}-5-ethynylpyrrolidine-2-carbonitrile
To a stirred solution of (2S,5R)-1-(chloroacetyl)-5-ethynylpyrrolidine-2-carbonitrile (0.03 g, 0.152 mmol ) in acetonitrile (1 mL) at room temperature was added exo-2-aminonorborane (0.036 mL, 0.305 mmol) and a catalytic amount of tetrabutylammonium iodide. The reaction mixture was stirred at room temperature for 18 hours, concentrated under reduced pressure and purified by flash chromatography with 3% methanol:dichloromethane to provide the titled compound. MS (CI) m/z 271 (M+1)+; 1H NMR (300 MHz, MeOH-d4): δ ppm 4.7-4.8 (m, 2H), 3.61-3.8 (m, 2H), 3.2-3.3 (m, 1H), 3.02-3.11 (1H, s), 2.62-2.72 (m, 1H), 2.37-2.44 (m, 3H), 2.2-2.3 (br s, 2H), 1.0-1.7 (m, 8H).

reactant | (2S,5R)-1-(chloroacetyl)-5-ethynylpyrrolidine-2-carbonitrile | 0.152 mmol, 0.03 g | ClCC(=O)N1[C@@H](CC[C@@H]1C#C)C#N | C9H9ClN2O
reactant | exo-2-aminonorborane | 0.305 mmol, 0.036 mL | C1CC2CC1CC2N | C7H13N
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
catalyst | tetrabutylammonium iodide | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (2S,5R)-1-{N-((1R,2R,4S)-bicyclo(2.2.1)hept-2-yl)glycyl}-5-ethynylpyrrolidine-2-carbonitrile | [C@@H]12[C@@H](C[C@@H](CC1)C2)NCC(=O)N2[C@@H](CC[C@@H]2C#C)C#N | C16H21N3O
